US07132425B2
A solution of crude (Z)-N-[[[5-[[2(R)-(3-chloro-4-methylsulfonyl-phenyl)-3-cyclopentyl-1-oxopropyl]amino]-2-pyrazinyl]carbonyl]oxy]ethanimidamide (0.331 mmol) in toluene (3.6 mL) was treated with 4 Å molecular sieves and warmed to 80° C. where it stirred for 48 h. The reaction was then partitioned between ethyl acetate (25 mL) and water (50 mL). The organic layer was washed with a 1N aqueous hydrochloric acid solution (50 mL). The combined aqueous layers were then back-extracted with ethyl acetate (50 mL). The combined organic layers were washed with a saturated aqueous sodium chloride solution (50 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40S, Silica, 2/3 ethyl acetate/hexanes) afforded impure 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(3-methyl-[1,2,4]oxadiazol-5-yl)-pyrazin-2-yl]-propionamide as a light yellow foam (22.5 mg, 13%). The impure product was re-purified by reverse phase high-performance liquid chromatography (Waters symmetry packing, acetonitrile/water with 0.05% trifluoroacetic acid, 2% to 45% acetonitrile gradient). The fractions containing product were concentrated in vacuo and lyophilized to afford 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(3-methyl-[1,2,4]oxadiazol-5-yl)-pyrazin-2-yl]-propionamide (12 mg, 7%) as a white lyophilized solid: mp 101–105° C. (foam to gel); (ES)+-HRMS m/e calcd for C22H24ClN5O4S (M+H)+ 490.1311, found 490.1315.

reactant | (Z)-N-[[[5-[[2(R)-(3-chloro-4-methylsulfonyl-phenyl)-3-cyclopentyl-1-oxopropyl]amino]-2-pyrazinyl]carbonyl]oxy]ethanimidamide | 0.331 mmol | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)NC=1N=CC(=NC1)C(=O)ON\C(\C)=N/[H])CC1CCCC1 | C22H26ClN5O5S
solvent | toluene | 3.6 mL | C1(=CC=CC=C1)C | C7H8
product | 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(3-methyl-[1,2,4]oxadiazol-5-yl)-pyrazin-2-yl]-propionamide | 22.5 mg, 13% | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)NC1=NC=C(N=C1)C1=NC(=NO1)C)CC1CCCC1 | C22H24ClN5O4S
